US04005208
Refluxing 4-amino-1-cyclopropylpiperidine and 9-acetoxyxanthene in dry toluene for 24 hours, then working up as in Example 1 gives N-(N-cyclopropyl-4-piperidinyl)-9-xanthenylamine.

reactant | 4-amino-1-cyclopropylpiperidine | NC1CCN(CC1)C1CC1 | C8H16N2
reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(N-cyclopropyl-4-piperidinyl)-9-xanthenylamine | C1(CC1)N1CCC(CC1)NC1C2=CC=CC=C2OC=2C=CC=CC12 | C21H24N2O
